US07241791B2
Step 2: 4-[1-(cyclohexylmethyl)-7-(trifluoromethyl)-1H-indazol-3-yl]benzene-1,3-diol
Prepared according to Method D step C from 1-(cyclohexylmethyl)-3-(2,4-dimethoxy-phenyl)-7-(trifluoromethyl)-1H-indazole (0.841 g, 2.0 mmol), boron tribromide (1.14 mL, 12 mmol) and 0.5 mL of cyclohexene to give the product (0.567 g) as an off-white solid.

reactant | 1-(cyclohexylmethyl)-3-(2,4-dimethoxy-phenyl)-7-(trifluoromethyl)-1H-indazole | 2.0 mmol, 0.841 g | C1(CCCCC1)CN1N=C(C2=CC=CC(=C12)C(F)(F)F)C1=C(C=C(C=C1)OC)OC | C23H25F3N2O2
reactant | boron tribromide | 12 mmol, 1.14 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 0.5 mL | C1=CCCCC1 | C6H10
product | 4-[1-(cyclohexylmethyl)-7-(trifluoromethyl)-1H-indazol-3-yl]benzene-1,3-diol | 0.567 g | C1(CCCCC1)CN1N=C(C2=CC=CC(=C12)C(F)(F)F)C1=C(C=C(C=C1)O)O | C21H21F3N2O2
